US07544835B2
15.3 g of {3-[3-(4 (S)-Benzyl-2-oxooxazolidin-3-yl)-2(S)-isopropoxy-3-oxopropyl]benzyl}carbamic acid t-butyl ester was dissolved in 300 ml of tetrahydrofuran, and 15 ml of 30% aqueous hydrogen peroxide and 75 ml of 1N aqueous lithium hydroxide were successively added under ice-cooling, and stirring was continued overnight at room temperature. The reaction solution was treated with water, extracted with dichloromethane, and the aqueous layer was acidified with 1N hydrochloric acid. The mixture was extracted (×3) with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 16.68 g of 3-[3-(t-butoxycarbonylaminomethyl)phenyl]-2(S)-isopropoxypropionic acid. The product was then dissolved in 100 ml of N,N-dimethylformamide, and 7 g of potassium hydrogen carbonate and 3.5 ml of iodomethane were successively added, and the mixture was stirred overnight at room temperature. The reaction solution was diluted with ethyl acetate and washed with water. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was purified by silica gel column chromatography, to give 8.58 g of the title compound as a white solid in the 4:1 hexane-ethyl acetate fraction.

reactant | {3-[3-(4 (S)-Benzyl-2-oxooxazolidin-3-yl)-2(S)-isopropoxy-3-oxopropyl]benzyl}carbamic acid t-butyl ester | 15.3 g | C(C)(C)(C)OC(NCC1=CC(=CC=C1)C[C@@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)OC(C)C)=O | C28H36N2O6
reactant | hydrogen peroxide | 15 ml | OO | H2O2
reactant | lithium hydroxide | 1N, 75 ml | [OH-].[Li+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3-[3-(t-butoxycarbonylaminomethyl)phenyl]-2(S)-isopropoxypropionic acid | 16.68 g | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1)C[C@@H](C(=O)O)OC(C)C | C18H27NO5
